US04599339
A solution was prepared containing 0.75 g of trans-(±)-2-amino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline in 20 ml. of pyridine and 0.34 g. of acetic anhydride was added thereto in dropwise fashion. The reaction mixture was heated to reflux temperature under a nitrogen blanket overnight. TLC at this point in time indicated that starting material was still present; therefore, about 1.5 ml. more acetic anhydride were added and the reaction mixture again heated to reflux temperature under a nitrogen blanket. TLC, using a 9:1 chloroform/methanol solvent system containing ammonia, indicated that the reaction had gone largely toward completion but that some starting material was still present. The reaction mixture was therefore concentrated in vacuo and the resulting residue triturated in hot ethyl acetate. On cooling, crystals formed which were isolated by filtration. Thirty-four hundredths grams of trans-(±)-2-acetylamino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline were obtained; molecular ion at 288; nmr and infrared spectra were in comformance with the proposed structure.

reactant | trans-(±)-2-amino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline | 0.75 g | NC=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C14H22N4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonia | N | H3N
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | trans-(±)-2-acetylamino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline | C(C)(=O)NC=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C16H24N4O
